US09381253B2
DMF (7.5 mL) was added to (5-(3-chloropropoxy)-2-nitrophenyl)methanol (635 mg, 0.00258 moles) and sodium azide (252 mg, 0.00387 moles) in a flask, and the resulting mixture was heated to 70° C. and stirred overnight. The reaction was diluted in ethyl acetate (100 mL) and washed twice with water (75 mL each) and once with brine (75 mL). The organic layer was dried with anhydrous magnesium sulfate, which was filtered out. The filtrate was concentrated on a rotary evaporator and dried in vacuo overnight to yield (5-(3-azidopropoxy)-2-nitrophenyl)methanol as a yellow solid (yield 88%). H NMR (400 MHz, CD2Cl2) δ 8.16 (d, J=9.1 Hz, 1H), 7.27 (d, J=2.8 Hz, 1H), 6.91 (dd, J=9.1, 2.8 Hz, 1H), 4.98 (s, 2H), 4.18 (t, J=6.0 Hz, 2H), 3.53 (t, J=6.6 Hz, 2H), 2.12-2.06 (m, 2H). 13C-NMR (100 MHz, CD2Cl2) δ 163.99, 141.22, 128.43, 114.97, 113.93, 66.15, 63.26, 48.68, 29.13 HRMS m/z: calculated for C10H12N4O4 [M+H]+, 253.0931. found, 253.0939.

reactant | DMF | 7.5 mL | CN(C)C=O | C3H7NO
reactant | (5-(3-chloropropoxy)-2-nitrophenyl)methanol | 0.00258 moles, 635 mg | ClCCCOC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C10H12ClNO4
reactant | sodium azide | 0.00387 moles, 252 mg | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (5-(3-azidopropoxy)-2-nitrophenyl)methanol | yield 88% | N(=[N+]=[N-])CCCOC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C10H12N4O4
